* DIODES INCORPORATED AND ITS AFFILIATED COMPANIES AND SUBSIDIARIES (COLLECTIVELY, "DIODES") 
* PROVIDE THESE SPICE MODELS AND DATA (COLLECTIVELY, THE "SM DATA") "AS IS" AND WITHOUT ANY 
* REPRESENTATIONS OR WARRANTIES, EXPRESS OR IMPLIED, INCLUDING ANY WARRANTY OF MERCHANTABILITY 
* OR FITNESS FOR A PARTICULAR PURPOSE, ANY WARRANTY ARISING FROM COURSE OF DEALING OR COURSE OF 
* PERFORMANCE, OR ANY WARRANTY THAT ACCESS TO OR OPERATION OF THE SM DATA WILL BE UNINTERRUPTED, 
* OR THAT THE SM DATA OR ANY SIMULATION USING THE SM DATA WILL BE ERROR FREE. TO THE MAXIMUM 
* EXTENT PERMITTED BY LAW, IN NO EVENT WILL DIODES BE LIABLE FOR ANY DIRECT OR INDIRECT, 
* SPECIAL, INCIDENTAL, PUNITIVE OR CONSEQUENTIAL DAMAGES ARISING OUT OF OR IN CONNECTION WITH 
* THE PRODUCTION OR USE OF SM DATA, HOWEVER CAUSED AND UNDER WHATEVER CAUSE OF ACTION OR THEORY 
* OF LIABILITY BROUGHT (INCLUDING, WITHOUT LIMITATION, UNDER ANY CONTRACT, NEGLIGENCE OR OTHER 
* TORT THEORY OF LIABILITY), EVEN IF DIODES HAS BEEN ADVISED OF THE POSSIBILITY OF SUCH DAMAGES, 
* AND DIODES' TOTAL LIABILITY (WHETHER IN CONTRACT, TORT OR OTHERWISE) WITH REGARD TO THE SM 
* DATA WILL NOT, IN THE AGGREGATE, EXCEED ANY SUMS PAID BY YOU TO DIODES FOR THE SM DATA.



*ZETEX BS107P Spice Model v1.1 Last Revised 04/10/2021
    *
    .SUBCKT BS107P 3 4 5
    *                D G S
    M1 3 2 5 5 MN0124
    RG 4 2 225
    RL 3 5 2.4E7
    C1 2 5 60E-12
    C2 3 2 2E-12 
    D1 5 3 DN0124
    *
    .MODEL MN0124 NMOS VTO=1.55 RS=1.6 RD=9 IS=1E-15 KP=1.077 CBD=36E-12 PB=1 LAMBDA=0
    .MODEL DN0124 D IS=3.071E-12 N=1.026 RS=0.511
    .ENDS BS107P
    *
    *$
    *
*                (c)  2005 Zetex Semiconductors plc
*
*   The copyright in these models  and  the designs embodied belong
*   to Zetex Semiconductors plc (" Zetex ").  They  are  supplied
*   free of charge by Zetex for the purpose of research and design
*   and may be used or copied intact  (including this notice)  for
*   that purpose only.  All other rights are reserved. The models
*   are believed accurate but  no condition  or warranty  as to their
*   merchantability or fitness for purpose is given and no liability
*   in respect of any use is accepted by Zetex PLC, its distributors
*   or agents.
*
*   Zetex Semiconductors plc, Zetex Technology Park, Chadderton,
*   Oldham, United Kingdom, OL9 9LL