.SUBCKT HRS2H-S-DC24V-N 1 2 3 4 7 8 9 10
R1 1 10 2880
S1 3 4 1 10 SW1
S2 8 7 1 10 SW1
S3 3 2 1 10 SW2
S4 8 9 1 10 SW2
.model sw1 VSWITCH voff=0 von=24 ron=0.01 roff=10MEG
.model sw2 VSWITCH voff=24 von=0 ron=0.01 roff=10MEG
.ENDS
