*******************************************************************************
* Copyright (C) Maxim Integrated Products, Inc., All Rights Reserved.
*
* Permission is hereby granted, free of charge, to any person obtaining a
* copy of this software and associated documentation files (the "Software"),
* to deal in the Software without restriction, including without limitation
* the rights to use, copy, modify, merge, publish, distribute, sub license,
* and/or sell copies of the Software, and to permit persons to whom the
* Software is furnished to do so, subject to the following conditions:
*
* The above copyright notice and this permission notice shall be included
* in all copies or substantial portions of the Software.
*
* THE SOFTWARE IS PROVIDED "AS IS", WITHOUT WARRANTY OF ANY KIND, EXPRESS
* OR IMPLIED, INCLUDING BUT NOT LIMITED TO THE WARRANTIES OF
* MERCHANTABILITY, FITNESS FOR A PARTICULAR PURPOSE AND NONINFRINGEMENT.
* IN NO EVENT SHALL MAXIM INTEGRATED BE LIABLE FOR ANY CLAIM, DAMAGES
* OR OTHER LIABILITY, WHETHER IN AN ACTION OF CONTRACT, TORT OR OTHERWISE,
* ARISING FROM, OUT OF OR IN CONNECTION WITH THE SOFTWARE OR THE USE OR
* OTHER DEALINGS IN THE SOFTWARE.
*
* Except as contained in this notice, the name of Maxim Integrated
* Products, Inc. shall not be used except as stated in the Maxim Integrated
* Products, Inc. Branding Policy.
*
* The mere transfer of this software does not imply any licenses
* of trade secrets, proprietary technology, copyrights, patents,
* trademarks, mask work rights, or any other form of intellectual
* property whatsoever. Maxim Integrated Products, Inc. retains all
* ownership rights.
***************************************************************
* MAX317 features precision CMOS monolithic analog switches.
* It is normally closed (NC) switch.
****************************************************
.subckt MAX317 1  2  3  4  5  6  7  8   
*              |  |  |  |  |  |  |  |     
*              |  |  |  |  |  |  |  |   
*              |  |  |  |  |  |  |  |   
*              |  |  |  |  |  |  |  |    
*              |  |  |  |  |  |  |   Analog-switch normally closed terminal
*              |  |  |  |  |  |  |  
*              |  |  |  |  |  |   Analog-signal negative supply input    
*              |  |  |  |  |  |   
*              |  |  |  |  |   Logic-level input    
*              |  |  |  |  |   
*              |  |  |  |   Logic-level positive supply input
*              |  |  |  |                      
*              |  |  |   Analog-signal positive supply input           
*              |  |  |                               
*              |  |   Logic ground      
*              |  |                 
*              |   No connect 
*              |    
*               Analog-switch common terminal
*
* Date of model creation: 
*		 09/2009
*
* Revision History: 
* 		 Version 0
*        Version 1
* 
* Recommendations:
*     	Use SIMETRIX (or SPICE 2G6; other simulators may require translation)
*     	For a quick, effective design, use a combination of: data sheet
* 	    specs, bench testing, and simulations with this macro model
*		Default Analysis parameter is used in SIMetrix and PSPICE.
*	
* Supported:
*	    COM Off-Capacitance , COM ON-Capacitance ,Off-isolation , NC Capacitance (OFF) , Charge Injection ,Switching time
*       Model works only at temperature of 27 degree Celsius.
*
* Not Supported:
*       Model does not support temperature variation
*       Model does not support crosstalk parameter
*
* Known Discrepancies in Model vs. Data sheet:
*       COM ON-Capacitance is less than that of electrical characteristic value.
*       
****************
E_MAX317_E5         VCC 3 MAX317_N12590604 3 1
C_MAX317_C13         3 1  8p  
D_MAX317_D3         MAX317_N12590150 MAX317_N125900381 diodemacro_ideal 
D_MAX317_CO2_D2         3 MAX317_N12589760 diodemacro_mostideal 
G_MAX317_CO2_G1         MAX317_N12589760 3 6 MAX317_N12589884 -1E6
D_MAX317_CO2_D1         MAX317_N12589760 VCCR diodemacro_mostideal 
R_MAX317_R1         MAX317_N12590598 MAX317_N12590604  1k  
D_MAX317_D4         MAX317_N125901040 MAX317_N12590150 diodemacro_ideal 
I_MAX317_I3         1 3 DC 0.1nA  
C_MAX317_C16         8 1  1.3p  
V_MAX317_V2         MAX317_N12589884 3 1.6V
R_MAX317_R5         MAX317_N125901040 MAX317_N12590146  150  
M_MAX317_M12         MAX317_N12590604 MAX317_N12590420 3 3 NJNT L=11u W=11u
M_MAX317_M14         MAX317_N12589732 MAX317_N12590904 3 3 NJNT L=11u W=11u
C_MAX317_C11         3 8  8pF  
E_MAX317_E8         VCCR 3 MAX317_N12589732 3 1
M_MAX317_M13         MAX317_N12590604 MAX317_N12590440 3 3 NJNT L=11u W=11u
M_MAX317_M15         MAX317_N12589732 MAX317_N12590920 3 3 NJNT L=11u W=11u
V_MAX317_V6         MAX317_N12590598 3 41V
I_MAX317_I5         8 3 DC 0.25nA  
E_MAX317_E4         MAX317_N12590150 3 MAX317_N12589760 3 1
R_MAX317_R3         VCC MAX317_N12589732  1k  
I_MAX317_I12         4 3 DC 0.1nA  
M_MAX317_INV2_M1         MAX317_ENC MAX317_N12590146 3 3 NMOS L=11u W=11u
M_MAX317_INV2_M2         MAX317_ENC MAX317_N12590146 VCCR VCCR PMOS L=11u W=11u
E_MAX317_EL1         MAX317_N12590904 3 1 7 -1E3
E_MAX317_EL         MAX317_N12590420 3 MAX317_N12590616 MAX317_N125904761 -1E3
I_MAX317_I13         7 3 DC 0.1nA  
E_MAX317_E9         MAX317_N12589534 MAX317_N12589474 MAX317_ENC 3 2
E_MAX317_EH         MAX317_N12590440 3 MAX317_N12590616 MAX317_N125905001 1E3
E_MAX317_EH1         MAX317_N12590920 3 1 4 1E3
E_MAX317_E6         MAX317_N12590616 MAX317_N12590810 4 3 1
I_MAX317_I2         6 3 DC 5nA  
V_MAX317_V4         3 MAX317_N12589474 41V
I_MAX317_I14         5 3 DC 0.1nA  
R_MAX317_R2         MAX317_N125900381 MAX317_N12590146  120  
V_MAX317_VH         MAX317_N125905001 3 40V
E_MAX317_E7         MAX317_N12590810 3 7 3 -1
M_MAX317_M2         8 MAX317_N12589534 1 MAX317_N12589474 NCHJ L=11u W=12u
V_MAX317_VL         MAX317_N125904761 3 9V
C_MAX317_C1         3 MAX317_N12590146  1n  
C_MAX317_C4         3 MAX317_N12589760  10n  
******************
.model diodemacro_ideal d(n=0.1)
.model diodemacro_mostideal d(IS=1E-12 N=0.1 BV=42 IBV=1)
.model NJNT nmos(VTO=0.5 KP=50E-2)
.model NMOS nmos(VTO=0.5 KP=100E-6)
.model PMOS pmos(VTO=-0.5 KP=50E-6)
.model NCHJ nmos(VTO=0.5 KP=100E-6 CGDo=2.75E-9)
.ends MAX317
******************


