* CONNECTIONS:   NON-INVERTING INPUT
*                | INVERTING INPUT
*                | | POSITIVE POWER SUPPLY
*                | | | NEGATIVE POWER SUPPLY
*                | | | | OUTPUT
*                | | | | |
.SUBCKT MC3317X  1 2 3 4 5
C1   11 12 8.660E-12
C2    6  7 15.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) (3,0) (4,0) 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 17.68E6
+ -20E6 20E6 20E6 -20E6
GA    6  0 11 12 282.7E-6
GCM   0  6 10 99 894.1E-12
IEE   3 10 DC 30.20E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   4 11 3.537E3
RC2   4 12 3.537E3
RE1  13 10 1.800E3
RE2  14 10 1.800E3
REE  10 99 6.623E6
RO1   8  5 60
RO2   7 99 40
RP    3  4 164.5E3
VB    9  0 DC 0
VC    3 53 DC 1
VE   54  4 DC 1.200
VLIM  7  8 DC 0
VLP  91  0 DC 100
VLN   0 92 DC 100
DESD1  1  3 DX
DESD2  2  3 DX
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=150)
.ENDS

.SUBCKT MC33178_IMPL  OUT1 -IN1 +IN1 -VCC +IN2 -IN2 OUT2 +VCC
XSUB1 +IN1 -IN1 +VCC -VCC OUT1 MC3317X
XSUB2 +IN2 -IN2 +VCC -VCC OUT2 MC3317X
.ENDS

.SUBCKT MC33179_IMPL  OUT1 -IN1 +IN1 -VCC +IN2 -IN2 OUT2 OUT3 -IN3 +IN3 +VCC +IN4 -IN4 OUT4
XSUB1 +IN1 -IN1 +VCC -VCC OUT1 MC3317X
XSUB2 +IN2 -IN2 +VCC -VCC OUT2 MC3317X
XSUB3 +IN3 -IN3 +VCC -VCC OUT3 MC3317X
XSUB4 +IN4 -IN4 +VCC -VCC OUT4 MC3317X
.ENDS
