
* OPA4131
*$
*****************************************************************************
* (C) Copyright 2011 Texas Instruments Incorporated. All rights reserved.                                            
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model.
*
*****************************************************************************
*
** Released by: Analog eLab Design Center, Texas Instruments Inc.
* Part: OPA4131
* Date: 01JUL2011
* Model Type: ALL IN ONE
* Simulator: PSPICE
* Simulator Version: 16.0.0.p001
* EVM Order Number: N/A 
* EVM Users Guide: N/A
* Datasheet: SBOS040A - NOVEMBER 1994 - REVISED DECEMBER 2002
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : 
* Release to Web
*
*****************************************************************************
* THIS MODEL IS APPLICABLE TO OPA131 AND OPA2131 ALSO.
*
* CONNECTIONS:		      NON-INVERTING INPUT
*	                      | INVERTING INPUT
*       	              | | POSITIVE POWER SUPPLY
*               	      | | | NEGATIVE POWER SUPPLY
*	        	          | | | | OUTPUT
*       	              | | | | |
* PIN CONFIG FOR OPA131:  1 2 3 4 5
*****************************************************************************
.SUBCKT OPA131  1 2 3 4 5  
c1   11 12 4.197E-12
c2    6  7 18.00E-12
css  10 99 7.200E-12
dc    5 53 dx
de   54  5 dx
dlp  90 91 dx
dln  92 90 dx
dp    4  3 dx
egnd 99  0 poly(2) (3,0) (4,0) 0 .5 .5
fb    7 99 poly(5) vb vc ve vlp vln 0 127.3E6 -130E6 130E6 130E6 -130E6
ga    6  0 11 12 452.4E-6
gcm   0  6 10 99 45.24E-9
iss   3 10 dc 252.0E-6
hlim 90  0 vlim 1K
j1   11  2  10 jx
j2   12  64 10 jx
g11   2  4 Poly(4)  (10,2) (11,2) (4,2) (66,0) 0 1e-12 1e-12 1e-12 3e-6
g12   1  4 Poly(4)  (10,1) (12,1) (4,1) (68,0) 0 1e-12 1e-12 1e-12 3e-6
r2    6  9 100.0E3
rd1   4 11 2.210E3
rd2   4 12 2.210E3
ro1   8  5 50
ro2   7 99 25

* rp    3  4 20.00E3

rss  10 99 793.7E3
vb    9  0 dc 0
vc    3 53 dc 2.500
ve   54  4 dc 2.500
vlim  7  8 dc 0
vlp  91  0 dc 20
vln   0 92 dc 20

* Output Supply Mirror
FQ3    0    20    Poly(1) Vlim 0   1
DQ1   20    21    DX
DQ2   22    20    DX
VQ1   21     0    0
VQ2   22     0    0
FQ1    3     0    Poly(1) VQ1   1.06E-3   1
FQ2    0     4    Poly(1) VQ2   1.06E-3  -1

* Quiescent Current
RQ     3     4    160E3 

* Diff Input Capacitance
CDIF   1     2    1E-12

* Common Mode Input Capacitance
C1CM   1    99    1.5E-12
C2CM   2    99    1.5E-12

* Input Voltage Noise
VN1   61     0  0.6
VN2    0    62  0.6
DN1   61    63  DY
DN2   63    62  DY
EN    64     1    63   0    1

* Input Current Noise
RN1    0    65  60.3865
RN2   65    66  60.3865
RN3   66     0  120.773
RN4    0    67  60.3865
RN5   67    68  60.3865
RN6   68     0  120.773

**************************
.model dy D(Is=1.9E-16 RS=2000 AF=1 KF=2.258E-17)
.model dx D(Is=800.0E-18)
.model jx PJF(Is=2.500E-12 Beta=812.1E-6 Vto=-1)

.ends OPA131

.SUBCKT OPA131_IMPL NULL1 N_IN P_IN VEE NULL2 OUT VCC NC
XU1 P_IN N_IN VCC VEE OUT OPA131
.ends OPA2131

.SUBCKT OPA2131 OUT1 N_IN1 P_IN1 VEE P_IN2 N_IN2 OUT2 VCC
XU1 P_IN1 N_IN1 VCC VEE OUT1 OPA131
XU2 P_IN2 N_IN2 VCC VEE OUT2 OPA131
.ends OPA2131
